US06458796B1
5-Amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide
A solution of 997 mg (5.28 mmol) of (4-azidopentyl)-benzene and 672 mg (8 mmol) of cyanoacetamide in 3 ml of DMSO is admixed with a solution, of a temperature of 50° C., of 127 mg (5.5 mmol) of sodium in 3 ml of ethanol. The reaction mixture is stirred at room temperature for 15 h and then poured into 25 ml of ice-water. The pH is adjusted to pH 2 using 1N HCl and the precipitated solid is filtered off with suction, washed with water and dried under reduced pressure. This gives 1.14 g (79%) of a slightly yellow solid.

reactant | (4-azidopentyl)-benzene | 5.28 mmol, 997 mg | N(=[N+]=[N-])C(CCCC1=CC=CC=C1)C | C11H15N3
reactant | cyanoacetamide | 8 mmol, 672 mg | C(#N)CC(=O)N | C3H4N2O
reactant | sodium | 5.5 mmol, 127 mg | [Na] | Na
reactant | HCl | 1N | Cl | ClH
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 5-Amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide | NC1=C(N=NN1C(CCCC1=CC=CC=C1)C)C(=O)N | C14H19N5O
